US07273868B2
To a solution of 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-(4-hydroxypiperidin-1-yl)-2-methylthiopyrimidine (prepared in the above (3)) 100 mg in methylene chloride 3 ml is added at room temperature a solution of m-chloroperbenzoic acid 79 mg in methylene chloride 2 ml, and the mixture is stirred for 30 minutes. The reaction mixture is diluted with an aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-(4-hydroxypiperidin-1-yl)-2-methylsulfinylpyrimidine.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-(4-hydroxypiperidin-1-yl)-2-methylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OCCOCC2=CC=CC=C2)N2CCC(CC2)O)SC)C=CC1OC | C28H33ClN4O5S
reactant | m-chloroperbenzoic acid | 79 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-(3-chloro-4-methoxybenzylamino)-5-(2-benzyloxyethoxycarbonyl)-6-(4-hydroxypiperidin-1-yl)-2-methylsulfinylpyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OCCOCC2=CC=CC=C2)N2CCC(CC2)O)S(=O)C)C=CC1OC | C28H33ClN4O6S
